US08138181B2
Step E: Preparation of 8-((cis)-4-fluoropyrrolidin-3-yloxy)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline hydrochloride salt:
Crude (cis)-benzyl 3-fluoro-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate (1.0 g, 2.0 mmol) and palladium on carbon (1 g, 50% on a molar basis) were added to a mixture of ethanol and 1% HCl (v/v) and placed under hydrogen in a balloon with vigorous stirring. After 18 hours, the crude mixture was passed through Celite, rinsed several times with ethanol, and the collected filtrate was evaporated. The crude material was purified on silica gel using a 6% solution of ammonium hydroxide in methanol and dichloromethane to yield free base product, which, when subjected to HCl in dichloromethane and subsequent precipitation in diethyl ether yielded 150 mg (16% isolated yield) of highly pure product. MS APCI (+) m/z 423.3 (M+1) detected.

reactant | (cis)-benzyl 3-fluoro-4-(2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinolin-8-yloxy)pyrrolidine-1-carboxylate | 2.0 mmol, 1.0 g | F[C@@H]1CN(C[C@@H]1OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC)C(=O)OCC2=CC=CC=C2 | C31H29FN4O5
reactant | HCl | Cl | ClH
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 8-((cis)-4-fluoropyrrolidin-3-yloxy)-2-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)quinoline hydrochloride salt | Cl.F[C@@H]1[C@@H](CNC1)OC=1C=CC=C2C=CC(=NC12)C1=CN=C2N1C=CC(=C2)OCCOC | InChI=1S/C23H23FN4O3.ClH/c1-29-9-10-30-16-7-8-28-19(13-26-22(28)11-16)18-6-5-15-3-2-4-20(23(15)27-18)31-21-14-25-12-17(21)24;/h2-8,11,13,17,21,25H,9-10,12,14H2,1H3;1H/t17-,21+;/m0./s1
